US07078428B2
A mixture of 1 g of 4-hydroxy-N-isobutylphthalimide, 0.85 cm3 of 2-bromopropane and 1.38 g of potassium carbonate in 5 cm3 of dimethylformamide is stirred at a temperature in the region of 60° C. for 17 hours. The reaction mixture is then cooled to a temperature in the region of 20° C. and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° c. The residue is taken up in 70 cm3 of water and then extracted 3 times with 75 cm3 of ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution, dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. 1.16 g of N-isobutyl-4-isopropyloxyphthalimide are thus obtained in the form of a white solid. (Rf=0.50, thin layer chromatography on silica gel, eluent: cyclohexane/ethyl acetate (75/25 by volume)).

reactant | 4-hydroxy-N-isobutylphthalimide | 1 g | OC=1C=C2C(C(=O)N(C2=O)CC(C)C)=CC1 | C12H13NO3
reactant | 2-bromopropane | 0.85 cm3 | BrC(C)C | C3H7Br
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 cm3 | CN(C=O)C | C3H7NO
product | N-isobutyl-4-isopropyloxyphthalimide | 1.16 g | C(C(C)C)N1C(C=2C(C1=O)=CC(=CC2)OC(C)C)=O | C15H19NO3
